US07902218B2
Step A (1): (R)-2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid
To a suspension of tetrahydroisoquinoline 3-carboxylic acid (H-D-Tic-OH) (purchased from Novabiochem) (4.1 g, 23.16 mmol) in 1,4-dioxane (100 mL) was added 1N aqueous sodium hydroxide solution (100 mL) and di-tert-butyldicarbonate (10.0 g, 46.33 mmol). The resulting reaction mixture was stirred at rt for 12 h. The mixture was then concentrated in vacuo to remove the solvent and 600 mL of ethyl acetate was added. 1N Aqueous hydrogen chloride solution was added to neutralize the reaction mixture to about pH 2. The organic phase was washed with 0.1 N aqueous NaCl, H2O, and dried (Na2SO4), and concentrated in vacuo to give 6.3 g of the title compound (98% yield): 1H NMR (CDCl3, 500 MHz) δ 1.45 (9H, d, J=50 Hz), 3.14-3.25 (2H, m), 4.46 (1H, t, J=15 Hz), 4.67 (1H, t, J=15 Hz), 4.92 (1H, d, J=185 Hz), 7.07-7.17 (4H, m), 9.54 (1H, brd s)

reactant | tetrahydroisoquinoline 3-carboxylic acid | 23.16 mmol, 4.1 g | C1NC(CC2=CC=CC=C12)C(=O)O | C10H11NO2
reactant | sodium hydroxide | 1N, 100 mL | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 46.33 mmol, 10.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | (R)-2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid | 6.3 g, 98% yield | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@@H]1C(=O)O | C15H19NO4
